************************************************************************
* auCdl Netlist:
* 
* Library Name:  freepdk45_cells
* Top Cell Name: AND2X2
* View Name:     schematic
* Netlisted on:  Mar 28 16:32:56 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: freepdk45_cells
* Cell Name:    AND2X2
* View Name:    schematic
************************************************************************

.SUBCKT AND2X2 A B Y gnd vdd
*.PININFO A:B B:B Y:B gnd:B vdd:B
MM0 a_2_6# A vdd vdd PMOS_VTL W=5e-07 L=5e-08 m=1
MM1 vdd B a_2_6# vdd PMOS_VTL W=5e-07 L=5e-08 m=1
MM2 Y a_2_6# vdd vdd PMOS_VTL W=1e-06 L=5e-08 m=1
MM3 a_9_6# A a_2_6# gnd NMOS_VTL W=5e-07 L=5e-08 m=1
MM4 gnd B a_9_6# gnd NMOS_VTL W=5e-07 L=5e-08 m=1
MM5 Y a_2_6# gnd gnd NMOS_VTL W=5e-07 L=5e-08 m=1
.ENDS

